US06627651B1
Into a solution of 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid (841 mg) and triethylamine (0.42 ml) in THF (15 ml) was added dropwise at −5° C. a solution of ethyl chloroformate (0.29 ml)/THF (2 ml). The resulting mixture was stirred at −5° C. for 30 minutes, and an insoluble material was removed by filtration. Into the filtrate was added dropwise under ice cooling a solution of sodium borohydride (284 mg)/water (6 ml). After stirring at room temperature for 1.5 hours, the reaction mixture was mixed with 1 N hydrochloric acid and was extracted with ethyl acetate. The extract was washed successively with water, a 1 N aqueous solution of sodium hydroxide, water and an aqueous solution of sodium chloride, was dried (anhydrous magnesium sulfate) and was then concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/diethyl ether/hexane to obtain 4-hydroxymethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine (708 mg) as colorless crystals.

reactant | 7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine-4-carboxylic acid | 841 mg | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCO2)C(=O)O)C1 | C18H16O3
reactant | triethylamine | 0.42 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.29 ml | ClC(=O)OCC | C3H5ClO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-hydroxymethyl-7-(4-methylphenyl)-2,3-dihydro-1-benzooxepine | 708 mg | OCC=1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C=C2)C | C18H18O2
